### ISSUE TITLE
decide regression

### ISSUE THREAD

**Issue by kim-em** [leanprover-community/mathlib4#994]
In mathlib3 we could:
```
import data.int.basic

example (k : ℕ) : ¬ (k + 2 : ℤ) < 2 := by dec_trivial
```
however I can't get any variation of this to work in mathlib4:
```
import Mathlib.Data.Int.Basic

example (k : ℕ) : ¬ (k + 2 : ℤ) < 2 := by decide -- fails with expected type must not contain free or meta variables  ¬↑k + 2 < 2
example (k : ℕ) : ¬ (k + 2 : ℤ) < 2 := by revert k; decide -- failed to synthesize  Decidable (∀ (k : ℕ), ¬↑k + 2 < 2)
```
This affects https://github.com/leanprover-community/mathlib4/pull/938.

**Comment by kmill** [comment]
`dec_trivial` used to work here because it would do a "symbolic" evaluation of the decision procedure, which happened to be able to fully finish even though there were free variables. I imagine that `¬ (2 + k : ℤ) < 2` would fail.

We can do the symbolic evaluation by using the term that `decide` constructs manually:
```
example (k : ℕ) : ¬ (k + 2 : ℤ) < 2 := of_decide_eq_true rfl
```
and indeed
```
example (k : ℕ) : ¬ (2 + k : ℤ) < 2 := of_decide_eq_true rfl -- error, application type mismatch
```

The `decide +revert` tactic can't work here, since `∀ (k : ℕ), ¬↑k + 2 < 2` isn't obviously decidable. I don't think we can expect `decide` to allow symbolic evaluation — I've thought about adding a flag, but it seems like it's too finicky — a way to do large amounts of defeq abuse.

This goal can be solved with `omega`. Is the issue relevant anymore?

**Comment by kmill** [comment]
I believe this is a wont-fix, at least as far as core is concerned. Relying on symbolic reduction of decision procedures is too finicky, and the examples in question are better served these days by `omega`/`grind`.

If reduction is still wanted by users, at least `of_decide_eq_true rfl` is a workaround, and it's obscure enough that those who know they need it can find it.
